US07989449B2
4-[1-(3-Bromo-phenyl)-vinyl]-1-methoxy-2-methyl-benzene
Tetrahydrofuran (5 mL) was added to magnesium turnings (330 mg, 13.56 mmol) in a dried apparatus consisting of 250 mL 3-necked flask, addition funnel and reflux condenser. Then 5 mL of a solution of 4-bromo-2-methylanisole (2.5 g, 12.43 mmol) in tetrahydrofuran (15 mL) was added, followed by a drop of bromine. The exothermic reaction started instantaneously, and the 4-bromo-2-methylanisole solution was added at such a rate to maintain gentle reflux of the reaction mixture (25 min). After complete addition, the light-brown hazy Grignard solution was stirred for another 2 h at 40° C. The mixture was then cooled to 0° C. and a solution of 3-bromoacetophenone (1.42 mL, 11.3 mmol) in tetrahydrofuran (15 mL) was added dropwise over 30 min. After the addition was complete, the mixture was stirred overnight, followed by cooling in an ice bath and careful quenching with 0.5 N cold HCl. After further dilution with ethyl acetate (100 mL) and water (100 mL), the layers were separated and the aqueous layer extracted once more with ethyl acetate (50 mL). The organic layer was dried (magnesium sulfate), filtered and evaporated under reduced pressure. The residual material (tertiary alcohol) was dissolved in a mixture of acetic acid/sulfuric acid (4 mL of acetic acid, 0.12 mL of sulfuric acid) and the reaction mixture was stirred for 3 h at room temperature; then it was examined by LC-MS which showed the complete formation of desired product. The solution was quenched with ice and dichloromethane (20 mL) was added. The two phases formed and were separated. The organic layer was washed with a saturated solution of sodium bicarbonate and brine. It was then dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. Crude was purified by flash chromatography eluting with cyclohexane. 1.9 g of desired product was obtained as colorless oil (Yield: 55%).

reactant | magnesium | 13.56 mmol, 330 mg | [Mg] | Mg
reactant | 4-bromo-2-methylanisole | 12.43 mmol, 2.5 g | BrC1=CC(=C(C=C1)OC)C | C8H9BrO
reactant | bromine | BrBr | Br2
reactant | 3-bromoacetophenone | 11.3 mmol, 1.42 mL | CC(=O)C1=CC(=CC=C1)Br | C8H7BrO
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-[1-(3-Bromo-phenyl)-vinyl]-1-methoxy-2-methyl-benzene | 1.9 g | BrC=1C=C(C=CC1)C(=C)C1=CC(=C(C=C1)OC)C | C16H15BrO
